* C:\Users\seang\Utah Tech University\CubeSat2 - Electrical\Core Documentation\Command and Data Handling\Circuit Simulations\Analog Watchdog\Analog Watchdog.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N006 0 PULSE(0 3.3 0 1us 1us 100us 300us 1000)
C1 Ref2 in 100nF
D1 0 Ref2 1N4148
V3 V+ 0 3.3
C2 cap 0 10nF
R1 REF Ref2 10k
R2 Ref2 0 10k
R3 V+ REF 10k
R4 V+ N002 5k
R5 V+ cap 100k
X§U1 REF Ref2 V+ 0 cap LT1017 ;§pnba In+)In-)V+)V-)OUT
X§U2 cap REF V+ 0 N002 LT1017 ;§pnba In+)In-)V+)V-)OUT
R6 N001 N004 1k
R7 N001 N005 750k
R8 N001 N003 100k
R9 N001 osc 1k
C4 N003 N004 4.7µF
C5 osc N005 4.7µF
Q1 osc N003 0 0 2N2222
Q2 N004 N005 0 0 2N2222
Q3 V+ P001 N001 0 2N2222
R10 out P001 1k
Q4 NRST P002 0 0 2N2222
R11 osc P002 100k
R12 V+ NRST 40k
C6 0 NRST 0.1µF
V2 in N006 PULSE(0 3.3 3.5 1us 1us 100us 300us)
Q5 N001 0 0 0 2N2222
C3 REF 0 100nf
C7 REF 0 100nF
.model D D
.lib C:\Users\seang\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\seang\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 4s
.lib LT1017.sub
.backanno
.end
